US06790844B2
Synthesis of 4-(4-ethylpiperazin-1-yl)-6-[4-(3-hydroxy-1-propynyl)phenyl]thieno[3,2-c]pyridine pyridine
In the same manner as in Example 281-3, 6-(4-bromophenyl)-4-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine (1.27 g) and propargyl alcohol (0.92 ml) were reacted, and then recrystallized from chloroform/n-hexane, to give 0.41 g of the title compound as pale yellow needles.

reactant | 6-(4-bromophenyl)-4-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine | 1.27 g | BrC1=CC=C(C=C1)C1=CC2=C(C(=N1)N1CCN(CC1)CC)C=CS2 | C19H20BrN3S
reactant | propargyl alcohol | 0.92 ml | C(C#C)O | C3H4O
product | 4-(4-ethylpiperazin-1-yl)-6-[4-(3-hydroxy-1-propynyl)phenyl]thieno[3,2-c]pyridine pyridine | 0.41 g | N1=CC=CC=C1.C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)C#CCO | InChI=1S/C22H23N3OS.C5H5N/c1-2-24-10-12-25(13-11-24)22-19-9-15-27-21(19)16-20(23-22)18-7-5-17(6-8-18)4-3-14-26;1-2-4-6-5-3-1/h5-9,15-16,26H,2,10-14H2,1H3;1-5H
